### PR TITLE
[Merged by Bors] - feat: Fernique's theorem for Gaussian distributions

### PR DESCRIPTION
**Pull request by RemyDegenne**
For a Gaussian measure on a second-countable normed space, there exists `C > 0` such that the function `x ↦ exp (C * ‖x‖ ^ 2)` is integrable. As a consequence, a Gaussian measure in a second-countable Banach space has finite moments of all orders.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Probability/Distributions/Gaussian/Fernique.lean [hunk 1]
```diff
@@ -0,0 +1,250 @@
...
+-/
+
+open MeasureTheory ProbabilityTheory Complex NormedSpace
+open scoped ENNReal NNReal Real Topology
+
+section Aux
+
+lemma two_mul_le_add_mul_sq {R : Type*} [Field R] [LinearOrder R] [IsStrictOrderedRing R]
+    {a b ε : R} (hε : 0 < ε) :
+    2 * a * b ≤ ε * a ^ 2 + ε⁻¹ * b ^ 2 := by
```
Comment (RemyDegenne) [inline Mathlib/Probability/Distributions/Gaussian/Fernique.lean]: I know I need to move that lemma to a better place, but the remainder of the PR is ready for a review.

File: Mathlib/Probability/Distributions/Gaussian/Fernique.lean [hunk 2]
```diff
@@ -0,0 +1,250 @@
...
+namespace ProbabilityTheory.IsGaussian
+
+variable {E : Type*} [NormedAddCommGroup E] [NormedSpace ℝ E] [MeasurableSpace E] [BorelSpace E]
+  {μ : Measure E} [IsGaussian μ]
+
+section Rotation
+
+/-- Characteristic function of a centered Gaussian measure.
+The hypothesis `∀ L : StrongDual ℝ E, μ[L] = 0` can be simplified to `μ[id] = 0`,
+but at this point we don't know yet that `μ` has a first moment. -/
```
Comment (grunweg) [inline Mathlib/Probability/Distributions/Gaussian/Fernique.lean]: ... and the simplification holds assuming µ has a first moment? (Should this be added to the doc-string?)

File: Mathlib/Probability/Distributions/Gaussian/Fernique.lean [hunk 3]
```diff
@@ -0,0 +1,250 @@
...
+lemma charFunDual_eq_of_forall_strongDual_eq_zero (hμ : ∀ L : StrongDual ℝ E, μ[L] = 0)
+    (L : StrongDual ℝ E) :
+    charFunDual μ L = exp (- Var[L; μ] / 2) := by
+  rw [charFunDual_eq L, integral_complex_ofReal, hμ L]
+  simp [neg_div]
```
Comment (grunweg) [inline Mathlib/Probability/Distributions/Gaussian/Fernique.lean]:
```suggestion
  simp [charFunDual_eq L, integral_complex_ofReal, hμ L, neg_div]
```

File: Mathlib/Probability/Distributions/Gaussian/Fernique.lean [hunk 4]
```diff
@@ -0,0 +1,250 @@
...
+
+lemma map_rotation_eq_self [SecondCountableTopology E] [CompleteSpace E]
+    (hμ : ∀ L : StrongDual ℝ E, μ[L] = 0) (θ : ℝ) :
+    (μ.prod μ).map (ContinuousLinearMap.rotation θ) = μ.prod μ := by
+  refine Measure.ext_of_charFunDual ?_
+  ext L
+  rw [charFunDual_map, charFunDual_prod, charFunDual_eq_of_forall_strongDual_eq_zero hμ,
```
Comment (grunweg) [inline Mathlib/Probability/Distributions/Gaussian/Fernique.lean]: (for the entire `rw`)
```suggestion
  simp_rw [charFunDual_map, charFunDual_prod, charFunDual_eq_of_forall_strongDual_eq_zero hμ,
    ← Complex.exp_add]
```

File: Mathlib/Probability/Distributions/Gaussian/Fernique.lean [hunk 5]
```diff
@@ -0,0 +1,250 @@
...
+    charFunDual_eq_of_forall_strongDual_eq_zero hμ, ← Complex.exp_add, charFunDual_prod,
+    charFunDual_eq_of_forall_strongDual_eq_zero hμ,
+    charFunDual_eq_of_forall_strongDual_eq_zero hμ, ← Complex.exp_add]
+  rw [← add_div, ← add_div, ← neg_add, ← neg_add]
```
Comment (grunweg) [inline Mathlib/Probability/Distributions/Gaussian/Fernique.lean:62]: `field_simp; rw [← neg_add]` would also do it (not sure if this is better)

File: Mathlib/Probability/Distributions/Gaussian/Fernique.lean [hunk 6]
```diff
@@ -0,0 +1,250 @@
...
+    grind
+  all_goals exact (memLp_dual _ _ _ (by simp)).const_smul _
+
+end Rotation
+
+section Fernique
+
+variable [SecondCountableTopology E]
+
+/-- the convolution of a Gaussian measure `μ` and its map by `x ↦ -x` is centered. -/
```
Comment (grunweg) [inline Mathlib/Probability/Distributions/Gaussian/Fernique.lean]:
```suggestion
/-- The convolution of a Gaussian measure `μ` and its map by `x ↦ -x` is centered. -/
```

File: Mathlib/Probability/Distributions/Gaussian/Fernique.lean [hunk 7]
```diff
@@ -0,0 +1,250 @@
...
+    simp only [ContinuousLinearEquiv.coe_neg] at hC
+    filter_upwards [hC] with y hy
+    rw [integrable_map_measure (by fun_prop) (by fun_prop)] at hy
+    convert hy with x
+    simp only [Function.comp_apply, Pi.neg_apply, id_eq, Real.exp_eq_exp, mul_eq_mul_left_iff,
+      norm_nonneg, ne_eq, OfNat.ofNat_ne_zero, not_false_eq_true, pow_left_inj₀]
+    left
+    simp_rw [← sub_eq_add_neg, norm_sub_rev]
+  obtain ⟨y, hy⟩ : ∃ y, Integrable (fun x ↦ rexp (C * ‖x - y‖ ^ 2)) μ := h_int.exists
+  obtain ⟨C', hC'_pos, hC'_lt⟩ : ∃ C', 0 < C' ∧ C' < C := ⟨C / 2, by positivity, by simp [hC_pos]⟩
```
Comment (grunweg) [inline Mathlib/Probability/Distributions/Gaussian/Fernique.lean]: Can you inline `C'` and `hC'_pos`, please?

File: Mathlib/Probability/Distributions/Gaussian/Fernique.lean [hunk 8]
```diff
@@ -0,0 +1,250 @@
...
+  refine ⟨C', hC'_pos, ?_⟩
+  let ε := (C - C') / C'
```
Comment (grunweg) [inline Mathlib/Probability/Distributions/Gaussian/Fernique.lean:132]: And isn't \epsilon = 1?

Comment (grunweg) [reply Mathlib/Probability/Distributions/Gaussian/Fernique.lean:132]: So all in all, the next lines could be simplified to
```
  refine ⟨C / 2, by positivity, ?_⟩
  let ε : ℝ := 1
  suffices ∀ x, rexp ((C / 2) * ‖x‖ ^ 2) ≤ rexp (C * ‖y‖ ^ 2) * rexp (C * ‖x - y‖ ^ 2) by
    refine integrable_of_le_of_le (g₁ := 0)
      (g₂ := fun x ↦ rexp (C * ‖y‖ ^ 2) * rexp (C * ‖x - y‖ ^ 2)) (by fun_prop) ?_ ?_
      (integrable_const _) (hy.const_mul _)
    · exact ae_of_all _ fun _ ↦ by positivity
    · exact ae_of_all _ (by simpa)
  intro x
  rw [← Real.exp_add]
  gcongr -- `⊢ (C / 2) * ‖x‖ ^ 2 ≤ C * ‖y‖ ^ 2 + C * ‖x - y‖ ^ 2`
  have h_le : ‖x‖ ^ 2 ≤ 2 * ‖x - y‖ ^ 2 + 2 * ‖y‖ ^ 2 := by
    calc ‖x‖ ^ 2
    _ = ‖x - y + y‖ ^ 2 := by simp
    _ ≤ (‖x - y‖  + ‖y‖) ^ 2 := by gcongr; exact norm_add_le (x - y) y
    _ = ‖x - y‖ ^ 2 + ‖y‖ ^ 2 + 2 * ‖x - y‖ * ‖y‖ := by ring
    _ ≤ ‖x - y‖ ^ 2 + ‖y‖ ^ 2 + ε * ‖x - y‖ ^ 2 + ε⁻¹ * ‖y‖ ^ 2 := by
      simp_rw [add_assoc]
      gcongr
      exact two_mul_le_add_mul_sq (by positivity)
    _ = 2 * ‖x - y‖ ^ 2 + 2 * ‖y‖ ^ 2 := by ring
  calc (C / 2) * ‖x‖ ^ 2
  _ ≤ (C / 2) * (2 * ‖x - y‖ ^ 2 + 2 * ‖y‖ ^ 2) := by gcongr
  _ = ((C / 2) * 2) * ‖y‖ ^ 2 + ((C / 2) * 2) * ‖x - y‖ ^ 2 := by ring
  _ = C * ‖y‖ ^ 2 + C * ‖x - y‖ ^ 2 := by
    congr 2 <;> norm_num
  _ = _ := by simp

File: Mathlib/Probability/Distributions/Gaussian/Fernique.lean [hunk 9]
```diff
@@ -0,0 +1,250 @@
...
+      rw [mul_div_cancel₀ _ (by positivity)]
+
+end Fernique
+
+section FiniteMoments
+
+variable [CompleteSpace E] [SecondCountableTopology E]
+
+/-- A Gaussian measure has moments of all orders.
+That is, the identity is in Lp for all finite `p`. -/
```
Comment (grunweg) [inline Mathlib/Probability/Distributions/Gaussian/Fernique.lean]:
```suggestion
That is, the identity is in L^p for all finite `p`. -/
```

**Review by grunweg — COMMENTED** [review]
I took a look and found a few small golfs.

File: Mathlib/Probability/Distributions/Gaussian/Fernique.lean [hunk 10]
```diff
@@ -0,0 +1,278 @@
...
+    simp
+  _ = 0 := by
+    rw [integral_map (by fun_prop) (by fun_prop)]
+    simp [integral_neg]
+
+/-- If `x ↦ exp (C * ‖x‖ ^ 2)` is integrable with respect to the centered Gaussian
+`μ ∗ (μ.map (ContinuousLinearEquiv.neg ℝ))`, then for all `C' < C`, `x ↦ exp (C' * ‖x‖ ^ 2)`
+is integrable with respect to `μ`. -/
+lemma integrable_exp_sq_of_conv_neg (μ : Measure E) [IsGaussian μ] {C C' : ℝ}
+    (h_centered : Integrable (fun x ↦ rexp (C * ‖x‖ ^ 2))
```
Comment (grunweg) [inline Mathlib/Probability/Distributions/Gaussian/Fernique.lean]: Is `h_centered` a good name? (Is `hC` better, or `hint`?)

File: Mathlib/Probability/Distributions/Gaussian/Fernique.lean [hunk 11]
```diff
@@ -0,0 +1,278 @@
...
+      (integrable_const _) (hy.const_mul _)
+    · exact ae_of_all _ fun _ ↦ by positivity
+    · exact ae_of_all _ this
+  intro x
+  rw [← Real.exp_add]
+  gcongr -- `⊢ C' * ‖x‖ ^ 2 ≤ C / ε * ‖y‖ ^ 2 + C * ‖x - y‖ ^ 2` with `ε = (C - C') / C'`
+  have h_le : ‖x‖ ^ 2 ≤ (1 + ε) * ‖x - y‖ ^ 2 + (1 + 1 / ε) * ‖y‖ ^ 2 := by
+    calc ‖x‖ ^ 2
+    _ = ‖x - y + y‖ ^ 2 := by simp
+    _ ≤ (‖x - y‖  + ‖y‖) ^ 2 := by gcongr; exact norm_add_le (x - y) y
```
Comment (grunweg) [inline Mathlib/Probability/Distributions/Gaussian/Fernique.lean]: Would `grw [norm_add_le (x - y) y]` also work?

File: Mathlib/Probability/Distributions/Gaussian/Fernique.lean [hunk 12]
```diff
@@ -0,0 +1,278 @@
...
+    rw [integral_add (by fun_prop) (by fun_prop)]
+    simp
+  _ = 0 := by
+    rw [integral_map (by fun_prop) (by fun_prop)]
+    simp [integral_neg]
+
+/-- If `x ↦ exp (C * ‖x‖ ^ 2)` is integrable with respect to the centered Gaussian
+`μ ∗ (μ.map (ContinuousLinearEquiv.neg ℝ))`, then for all `C' < C`, `x ↦ exp (C' * ‖x‖ ^ 2)`
+is integrable with respect to `μ`. -/
+lemma integrable_exp_sq_of_conv_neg (μ : Measure E) [IsGaussian μ] {C C' : ℝ}
```
Comment (grunweg) [inline Mathlib/Probability/Distributions/Gaussian/Fernique.lean:115]: is `conv` the recommended spelling for convolution? TIL!

File: Mathlib/Probability/Distributions/Gaussian/Fernique.lean [hunk 13]
```diff
@@ -0,0 +1,278 @@
...
+    rw [← memLp_norm_rpow_iff (q := 2) (by fun_prop) (by simp) (by simp)]
+    simpa using this
+  lift p to ℝ≥0 using hp
+  convert memLp_of_mem_interior_integrableExpSet ?_ (p / 2)
+  · simp
+  obtain ⟨C, hC_pos, hC⟩ := exists_integrable_exp_sq μ
+  have hC_neg : Integrable (fun x ↦ rexp (-C * ‖x‖ ^ 2)) μ := by -- `-C` could be any negative
+    refine integrable_of_le_of_le (g₁ := 0) (g₂ := 1) (by fun_prop)
+      (ae_of_all _ fun _ ↦ by positivity) ?_ (integrable_const _) (integrable_const _)
+    refine ae_of_all _ fun x ↦ ?_
```
Comment (grunweg) [inline Mathlib/Probability/Distributions/Gaussian/Fernique.lean]: This would also work, right?
```suggestion
    filter_upwards with x
```

**Review by grunweg — COMMENTED** [review]
I have only minor comments left; otherwise (and for the helper lemma), I'd maintainer merge.

File: Mathlib/Probability/Distributions/Gaussian/Fernique.lean (hunk 12 above)
Comment (RemyDegenne) [reply Mathlib/Probability/Distributions/Gaussian/Fernique.lean:115]: Yes, the definition is `Measure.conv`

**Comment by grunweg** [comment]
Thanks!
maintainer merge

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge
